US08710284B2
Synthesis of 5-(diphenylamino)benzo[c]phenanthrene
190 μl (1 mmol) of chlorodi-tert-butylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to a suspension of 15.3 g (50 mmol) of 5-bromobenzo[c]phenanthrene, 10.2 g (60 mmol) of diphenylamine and 7.7 g (80 mmol) of sodium tert-butoxide in 500 ml of toluene, and the mixture is subsequently heated under reflux for 5 h. After the mixture has been cooled to 60° C., 500 ml of water are added, the organic phase is separated off, filtered through silica gel, evaporated virtually to dryness at 80° C. in vacuo, and 300 ml of ethanol are then added. After cooling, the solid is filtered off with suction. The product is purified by recrystallisation from dioxane five times (about 8 ml/g). Yield: 12.6 g (32 mmol), 64.1%, purity 99.9% (HPLC).

reactant | chlorodi-tert-butylphosphine | 1 mmol, 190 μl | ClP(C(C)(C)C)C(C)(C)C | C8H18ClP
reactant | 5-bromobenzo[c]phenanthrene | 50 mmol, 15.3 g | BrC1=CC=2C=CC=3C=CC=CC3C2C2=C1C=CC=C2 | C18H11Br
reactant | diphenylamine | 60 mmol, 10.2 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | sodium tert-butoxide | 80 mmol, 7.7 g | CC(C)([O-])C.[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 500 ml | O | H2O
product | 5-(diphenylamino)benzo[c]phenanthrene | C1(=CC=CC=C1)N(C1=CC=2C=CC=3C=CC=CC3C2C2=C1C=CC=C2)C2=CC=CC=C2 | C30H21N
